US07919519B2
Bis(pyridine)iodonium tetrafluoroborate (379 mg, 1.02 mmol) was added to a solution of 4-(pyrimidin-2-ylmethyl)phenol (200 mg, 1.07 mmol) in 9:1 DCM:TFA (6 mL) at 0° C. The mixture was stirred for 1 h, partitioned between EtOAc and water, the layers were separated, and the organic layer was washed with satd. sodium thiosulfate. The organic layer was dried over MgSO4, concentrated in vacuo, and purified by column chromatography to give 2-iodo-4-(pyrimidin-2-ylmethyl)phenol. MS (ESI) m/z: Calculated: 312.0; Observed: 313.0 (M++1).

reactant | Bis(pyridine)iodonium tetrafluoroborate | 1.02 mmol, 379 mg | [B-](F)(F)(F)F.C1=CC=NC=C1.C1=CC=NC=C1.[IH2+]
reactant | 4-(pyrimidin-2-ylmethyl)phenol | 1.07 mmol, 200 mg | N1=C(N=CC=C1)CC1=CC=C(C=C1)O | C11H10N2O
reactant | TFA | 6 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 2-iodo-4-(pyrimidin-2-ylmethyl)phenol | IC1=C(C=CC(=C1)CC1=NC=CC=N1)O | C11H9IN2O
